US07049310B2
a) Ethyl 4,6-dichloro-1-methyl-1H-indole-2-carboxylate
NaH (60% dispersion in mineral oil, 0.24 g, 6 mmole) was washed with hexanes, then was suspended in anhydrous DMF (16 mL). The mixture was cooled to 0° C., and ethyl 4,6-dichloroindole-2-carboxylate (1.03 g, 4 mmole) was added. After 2–3 min, iodomethane (1.3 mL, 20 mmole) was added, and the mixture was warmed to RT. The mixture became thick, and stirring became difficult for several minutes. After 0.5 hr, the reaction was cooled to 0° C. and quenched with 10% NH4Cl (2 mL). The mixture was concentrated to dryness, and the residue was partitioned between Et2O (50 mL) and H2O (10 mL). The layers were separated and the organic layer was washed with H2O (5 mL), dried (MgSO4), and filtered, and the filter pad was washed with a little CH2Cl2. Concentration afforded the title compound (1.06 g, 97%) as an off-white solid: 1H NMR (400 MHz, CDCl3) δ 7.34 (s, 1 H), 7.30 (s, 1 H), 7.17 (d, J=1.5 Hz, 1 H), 4.39 (q, J=7.1 Hz, 2 H), 4.05 (s, 3 H), 1.42 (t, J=7.1 Hz, 3 H); MS (ES) m/e 272 and 274 (M+H)+.

reactant | NaH | 6 mmole, 0.24 g | [H-].[Na+]
reactant | ethyl 4,6-dichloroindole-2-carboxylate | 4 mmole, 1.03 g | ClC1=C2C=C(NC2=CC(=C1)Cl)C(=O)OCC | C11H9Cl2NO2
reactant | iodomethane | 20 mmole, 1.3 mL | IC | CH3I
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
product | Ethyl 4,6-dichloro-1-methyl-1H-indole-2-carboxylate | 1.06 g, 97% | ClC1=C2C=C(N(C2=CC(=C1)Cl)C)C(=O)OCC | C12H11Cl2NO2
